US07951822B2
k) Preparation of 5-(benzo[d][1,3]dioxol-5-yl)-5-methyl-3-[4-[4-propyl-1,1-bis(trifluoromethyl)-1,3-dihydroisobenzofuran-5-yloxy]butyl]imidazolidine-2,4-dione:
To a N,N-Dimethylformamide (2 mL) solution of 5-(4-bromobutoxy)-4-propyl-1,1-bis(trifluoromethyl)-1,3-dihydroisobenzofuran (25 mg, 0.0557 mmol), potassium carbonate mg, 0.111 mmol) and 5-(benzo[d][1,3]dioxol-5-yl)-5-methylimidazolidine-2,4-dione (CAS: 308122-40-9:DE335993) (19.6 mg, 0.0835 mmol) were added and the mixture was stirred overnight. The reaction solution was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated in vacuum. The residue was purified by thin-layer silica-gel column chromatography (hexane:ethyl acetate=2:1) and of the title compound (30.7 mg, 92%) was obtained as colorless oil.

reactant | N,N-Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | 5-(4-bromobutoxy)-4-propyl-1,1-bis(trifluoromethyl)-1,3-dihydroisobenzofuran | 0.0557 mmol, 25 mg | BrCCCCOC=1C(=C2COC(C2=CC1)(C(F)(F)F)C(F)(F)F)CCC | C17H19BrF6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(benzo[d][1,3]dioxol-5-yl)-5-methylimidazolidine-2,4-dione | 0.0835 mmol, 19.6 mg | O1COC2=C1C=CC(=C2)C2(C(NC(N2)=O)=O)C | C11H10N2O4
solvent | water | O | H2O
product | 5-(benzo[d][1,3]dioxol-5-yl)-5-methyl-3-[4-[4-propyl-1,1-bis(trifluoromethyl)-1,3-dihydroisobenzofuran-5-yloxy]butyl]imidazolidine-2,4-dione | O1COC2=C1C=CC(=C2)C2(C(N(C(N2)=O)CCCCOC=2C(=C1COC(C1=CC2)(C(F)(F)F)C(F)(F)F)CCC)=O)C | C28H28F6N2O6
